US07589109B2
Step 1. Methyl 1-[(4-{[(tert-butoxycarbonyl)amino]methyl}piperidin-1-yl)methyl]cyclobutanecarboxylate
To a stirred mixture of tert-butyl(piperidin-4-ylmethyl)carbamate (12.8 g, 60 mmol) and methyl 1-formylcyclobutanecarboxylate (2.13 g, 15 mmol, Davis, Charles R.; Swenson, Dale C.; Burton, Donald J., J. Org. Chem., 1993, 58, 6843) in tetrahydrofuran (50 mL) was added acetic acid (8.6 mL, 150 mmol) at ambient temperature. After 30 min, sodium triacetoxyborohydride (12.7 g, 60 mmol) was added to the mixture. Then, the mixture was heated to 60° C. for 2 h. After cooling, the reaction mixture was poured into sat. NaHCO3 aq. The aqueous layer was extracted with CH2Cl2 for 3 times. The combined organic phase were washed with brine, dried over MgSO4, filtered and concentrated. The residue was chromatographed on a column of silica gel eluting with hexane/ethyl acetate (1:1) to give 4.25 g (83%) of the title compound as white solid.

reactant | tert-butyl(piperidin-4-ylmethyl)carbamate | 60 mmol, 12.8 g | C(C)(C)(C)OC(NCC1CCNCC1)=O | C11H22N2O2
reactant | methyl 1-formylcyclobutanecarboxylate | 15 mmol, 2.13 g | C(=O)C1(CCC1)C(=O)OC | C7H10O3
reactant | acetic acid | 150 mmol, 8.6 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 60 mmol, 12.7 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | Methyl 1-[(4-{[(tert-butoxycarbonyl)amino]methyl}piperidin-1-yl)methyl]cyclobutanecarboxylate | 4.25 g, 83% | C(C)(C)(C)OC(=O)NCC1CCN(CC1)CC1(CCC1)C(=O)OC | C18H32N2O4
